US05814646
1-[4-(2-pyridylthio)phenyl-3-(4-chloro-3-trifluoromethylphenyl)thiourea.
2-(4-Aminophenylthio)pyridine (6.0 mmoles, 1.2 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (6.0 mmoles, 1.4 g) were reacted according to procedure C to yield the title compound, 1.9 g, 72%. Mass spec (FD) 439. Calculated for C19H13ClF3N3 S2 : C, 51.88; H, 2.98, N, 9.55 Found: C, 51.99; H, 3.15; N, 9.63.

reactant | 2-(4-Aminophenylthio)pyridine | 6.0 mmoles, 1.2 g | NC1=CC=C(C=C1)SC1=NC=CC=C1 | C11H10N2S
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 6.0 mmoles, 1.4 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 4-(2-pyridylthio)phenyl-3-(4-chloro-3-trifluoromethylphenyl)thiourea | N1=C(C=CC=C1)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H13ClF3N3S2
